US05660762
(1) Preparation of 4-undecanoyloxybenzoic acid
12.7 Grams (0.0917 mol) of p-hydroxybenzoic acid was added to 150 ml of dichloromethane, and to this suspension was added 10.2 g (0.0917 mol) of triethylamine. The mixture was stirred until a homogeneous solution was formed. 19.7 Grams (0.096 mol) of undecanoyl chloride was added to the solution at such a rate that the dichloromethane was not refluxed. Then, 1.0 g (0.0085 mol) of 4-dimethylaminopyridine was added, and the mixture was stirred at room temperature overnight. 1N Hydrochloric acid was added to the reaction mixture and the mixture was subjected to extraction with ether. The ether was distilled off, and the resultant crude product was washed with hexane.

reactant | p-hydroxybenzoic acid | 0.0917 mol | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | triethylamine | 0.0917 mol, 10.2 g | C(C)N(CC)CC | C6H15N
reactant | undecanoyl chloride | 0.096 mol | C(CCCCCCCCCC)(=O)Cl | C11H21ClO
reactant | Hydrochloric acid | 1N | Cl | ClH
catalyst | 4-dimethylaminopyridine | 0.0085 mol, 1.0 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 4-undecanoyloxybenzoic acid | C(CCCCCCCCCC)(=O)OC1=CC=C(C(=O)O)C=C1 | C18H26O4
